US04895871
A mixture of 15.8 grams (0.1 mole) of 2,2-difluoro-1,3-benzodioxole in 200 mL of carbon tetrachloride was stirred, and 2.8 grams (0.05 mole) of iron powder was added. The reaction mixture was cooled to 0° C., and 5.2 mL (0.1 mole) of bromine was added during a 20 minute period. Upon completion of addition the reaction mixture was cautiously warmed to 75° C. where it was stirred for one hour and then was allowed to cool to ambient temperature where it was stirred for 18 hours. The reaction mixture was taken up in 200 mL water and stirred for 20 minutes. The organic layer was separated and washed with water and then with two portions of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was distilled under high vacuum to yield 11.7 grams of 5-bromo-2,2-difluoro-1,3-benzodioxole. The nmr spectrum was consistent with the proposed structure. The reaction was repeated several times.

reactant | 2,2-difluoro-1,3-benzodioxole | 0.1 mole, 15.8 grams | FC1(OC2=C(O1)C=CC=C2)F | C7H4F2O2
reactant | bromine | 0.1 mole, 5.2 mL | BrBr | Br2
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 200 mL | O | H2O
catalyst | iron | 0.05 mole, 2.8 grams | [Fe] | Fe
product | 5-bromo-2,2-difluoro-1,3-benzodioxole | 11.7 grams | BrC1=CC2=C(OC(O2)(F)F)C=C1 | C7H3BrF2O2
